US07060752B2
Preparation of Benzoylaminoacetic Acid
To a nitrophenol resin (TG-2a) (10 mg, 3.5 μmol) was added 0.1 M glycin in 0.1 M K2CO3. The reaction was stirred for 18 hours. The reaction mixture was filtered and washed with H2O. The washer was combined and acidified with acetic acid.

reactant | nitrophenol | 3.5 μmol, 10 mg | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | glycin | 0.1 M | NCC(=O)O | C2H5NO2
reactant | K2CO3 | 0.1 M | C(=O)([O-])[O-].[K+].[K+]
product | Benzoylaminoacetic Acid | C(C1=CC=CC=C1)(=O)NCC(=O)O | C9H9NO3
